US04820866
1,3-bis-(4-aminophenoxy)-2,2-dimethylpropane
1949 g 1,3-bis-(4-nitrophenoxy)-2,2-dimethylpropane were hydrogenated as in Example 10 in 10 1 DMF in the presence of 300 g Raney nickel. The crude product was recrystallized from ethanol/isopropanol (1:1).

reactant | 1,3-bis-(4-nitrophenoxy)-2,2-dimethylpropane | 1949 g | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])(C)C)C=C1 | C17H18N2O6
catalyst | Raney nickel | 300 g | [Ni] | Ni
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,3-bis-(4-aminophenoxy)-2,2-dimethylpropane | NC1=CC=C(OCC(COC2=CC=C(C=C2)N)(C)C)C=C1 | C17H22N2O2
